US05852016
(g) N-(6-Chloro-7-ethyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide
Methanesulphonic anhydride (671 mg, 3.85 mmol) was added to a stirred solution of 5-amino-6-chloro-7-ethyl-2,3-dimethoxyquinoxaline (207 mg, 0.77 mmol) and anhydrous pyridine (305 mg, 3.85 mmol) in anhydrous tetrahydrofuran (7.7 ml) at room temperature. After 72 h, water (3 ml) was added and the mixture was stirred for a further 60 minutes. The mixture was diluted with ethyl acetate and washed with 2M hydrochloric acid (50 ml), water (50 ml), saturated aqueous sodium bicarbonate (50 ml) and saturated aqueous sodium chloride (50 ml). The organic phase was dried (MgSO4) and concentrated under reduced pressure to give the title compound (206 mg, 77%).

reactant | Methanesulphonic anhydride | 3.85 mmol, 671 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 5-amino-6-chloro-7-ethyl-2,3-dimethoxyquinoxaline | 0.77 mmol, 207 mg | NC1=C2N=C(C(=NC2=CC(=C1Cl)CC)OC)OC | C12H14ClN3O2
reactant | pyridine | 3.85 mmol, 305 mg | N1=CC=CC=C1 | C5H5N
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 7.7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(6-Chloro-7-ethyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide | 206 mg, 77% | ClC=1C(=C2N=C(C(=NC2=CC1CC)OC)OC)NS(=O)(=O)C | C13H16ClN3O4S
